US07371747B2
Methyl trans-2-{[(cyanomethyl)amino]carbonyl}cyclopentanecarboxylate (1.08 g, 5.16 mmol) in ethylene glycol dimethyl ether (6.5 mL) was cooled to 0° C. 2.00 M aqueous sodium hydroxide (2.65 mL) was added and the reaction mixture was stirred at 0° C. for 3.5 h. The pH was adjusted to 5 with 2 M aqueous hydrochloric acid and the reaction mixture was diluted with water. The product was extracted into ethyl acetate, washed with saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate and concentrated to give trans-2-{[(cyanomethyl)amino]carbonyl}cyclopentanecarboxylic acid as a colorless solid.

reactant | Methyl trans-2-{[(cyanomethyl)amino]carbonyl}cyclopentanecarboxylate | 5.16 mmol, 1.08 g | C(#N)CNC(=O)[C@H]1[C@@H](CCC1)C(=O)OC | C10H14N2O3
reactant | sodium hydroxide | 2.00 M, 2.65 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | ethylene glycol dimethyl ether | 6.5 mL | COCCOC | C4H10O2
solvent | water | O | H2O
product | trans-2-{[(cyanomethyl)amino]carbonyl}cyclopentanecarboxylic acid | C(#N)CNC(=O)[C@H]1[C@@H](CCC1)C(=O)O | C9H12N2O3
